US06492383B1
2-(2-(4-[4-(1H-Indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzylamino}-ethoxy)-ethanol
The title compound was prepared from 2-(2-amino-ethoxy)-ethanol and 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde by a procedure analogous to example 17. The product was converted to the mesylate salt analogous to example 17 being converted to the HCl salt. M.P. 111-119° C.; LC-MS: 460 (MH+); HPLC RT: 3.40 minutes.

reactant | 2-(2-amino-ethoxy)-ethanol | NCCOCCO | C4H11NO2
reactant | 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=O)C=C2 | C21H14N4OS
reactant | HCl | Cl | ClH
product | 2-(2-(4-[4-(1H-Indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzylamino}-ethoxy)-ethanol | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(CNCCOCCO)C=C2 | C25H25N5O2S
